US04565813
The mixture of 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-methyl-1,4dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one (250 mg) and sulfur (125 mg) in N,N-dimethylformamide (2 ml) was heated at 160° C. for 1 hour. N,N-dimethylformamide was removed under reduced pressure and residue was extracted with 2N hydrochloric acid. The insoluble solid was removed by filtration and filtrate was washed with ether. The aqueous solution was adjusted to pH 7.2 by 2N aqueous sodium hydroxide. The precipitates were extracted with chloroform and the extract was dried over anhydrous magnesium sulfate. Chloroform was removed under reduced pressure and residue was purified by silica gel column chromatography (Wakogel C-200, chloroform/methanol=20/1) to give 118 mg of 5-methyl-6-(3-methyl-4-pyridinyl)-2H-1,4-thiazin-3(4H)-one as pale-brown crystal.

reactant | 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-methyl-1,4dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one | 250 mg | CC=1NC(CSC1C1C(=CN(C=C1)C(=O)OCC(Cl)(Cl)Cl)C)=O | C14H15Cl3N2O3S
reactant | sulfur | 125 mg | [S] | S
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-methyl-6-(3-methyl-4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 118 mg | CC=1NC(CSC1C1=C(C=NC=C1)C)=O | C11H12N2OS
